US08486940B2
3-(1H-benzo[d]imidazol-6-yl)-2-(4-fluorophenyl)thiazolidin-4-one
The compound was synthesized starting from 5-aminobenzimidazole (0.133 g, 1.0 mmol), 4-fluoro-benzaldehyde (0.108 mL, 1.0 mmol), mercapto acetic acid (0.138 g, 1.5 mmol), piperidine, according to method 9 step A. yield: 69 mg (22%), MS m/z: 314.3 (M+H)+, HPLC [A]): rt 5.86 min (97%)

reactant | 5-aminobenzimidazole | 1.0 mmol, 0.133 g | NC1=CC2=C(N=CN2)C=C1 | C7H7N3
reactant | 4-fluoro-benzaldehyde | 1.0 mmol, 0.108 mL | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | mercapto acetic acid | 1.5 mmol, 0.138 g | SCC(=O)O | C2H4O2S
reactant | piperidine | N1CCCCC1 | C5H11N
product | 3-(1H-benzo[d]imidazol-6-yl)-2-(4-fluorophenyl)thiazolidin-4-one | N1C=NC2=C1C=C(C=C2)N2C(SCC2=O)C2=CC=C(C=C2)F | C16H12FN3OS
